US07432100B2
According to the study by the present inventors, it has been found that PtALD can catalyze the aldol condensation reaction of indolepyruvic acid with pyruvic acid (or oxalacetic acid) to yield 4-(indol-3-ylmethyl)-4-hydroxy-2-oxoglutaric acid (IHOG), and the reaction of phenylpyruvic acid with pyruvic acid to yield 4-phenylmethyl-4-hydroxy-2-oxoglutaric acid (PHOG).

reactant | indolepyruvic acid | N1C(=CC2=CC=CC=C12)CC(C(=O)O)=O | C11H9NO3
reactant | pyruvic acid | C(C(=O)C)(=O)O | C3H4O3
reactant | oxalacetic acid | C(CC(=O)C(=O)O)(=O)O | C4H4O5
product | 4-(indol-3-ylmethyl)-4-hydroxy-2-oxoglutaric acid | N1C=C(C2=CC=CC=C12)CC(CC(C(=O)O)=O)(C(=O)O)O | C14H13NO6
